US04743685
To a solution of 1-[[1,4-dihydro-4-oxo-5-(phenylmethoxy)-1-(phenylmethyl)-2-pyridinyl]-methyl]-4-(triphenylmethyl)-2,3-piperazinedione (8.77 g, 13.23 mmol) in 65 ml of dichloromethane was added dropwise at room temperature 65 ml of formic acid. After stirring for three days, the volatiles were distilled off in vacuo and the residue triturated twice with ether to give 5.24 g of 1-[[1,4-dihydro-4-oxo-5-(phenylmethoxy)-1-(phenylmethyl)-2-pyridinyl]methyl]-2,3-piperazinedione, melting point 260°-265° C.

reactant | 1-[[1,4-dihydro-4-oxo-5-(phenylmethoxy)-1-(phenylmethyl)-2-pyridinyl]-methyl]-4-(triphenylmethyl)-2,3-piperazinedione | 13.23 mmol, 8.77 g | O=C1C=C(N(C=C1OCC1=CC=CC=C1)CC1=CC=CC=C1)CN1C(C(N(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C43H37N3O4
reactant | formic acid | 65 ml | C(=O)O | CH2O2
solvent | dichloromethane | 65 ml | ClCCl | CH2Cl2
product | 1-[[1,4-dihydro-4-oxo-5-(phenylmethoxy)-1-(phenylmethyl)-2-pyridinyl]methyl]-2,3-piperazinedione | 5.24 g | O=C1C=C(N(C=C1OCC1=CC=CC=C1)CC1=CC=CC=C1)CN1C(C(NCC1)=O)=O | C24H23N3O4
